US07473694B2
Synthesis of tert-butyl {6-[3-(tert-butyldimethylsilanyloxy)-2-hydroxypropyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}(4-ethoxyphenyl)carbamate
To a methylene chloride (3.6 mL) solution containing tert-butyl[5-chloro-6-(2,3-dihydroxypropyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate (500 mg, 1.08 mmol), triethylamine (300 μL, 2.16 mmol), tert-butylchlorodimethylsilane (195 mg, 1.30 mmol) and N,N-dimethylpyridine (13 mg, 0.108 mmol) were added. After the reaction mixture was stirred at room temperature for 5 hr, 1 mol/L hydrochloric acid was added here, and the mixture was extracted with ethyl acetate. The combined ethyl acetate layer was washed with aqueous sodium hydrogen carbonate and then brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off and the residue was purified with column chromatography to obtain the title compound (503 mg).

reactant | tert-butyl[5-chloro-6-(2,3-dihydroxypropyl)pyrazolo[1,5-a]pyrimidin-7-yl](4-ethoxyphenyl)carbamate | 1.08 mmol, 500 mg | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OCC)C1=C(C(=NC=2N1N=CC2)Cl)CC(CO)O)=O | C22H27ClN4O5
reactant | triethylamine | 2.16 mmol, 300 μL | C(C)N(CC)CC | C6H15N
reactant | tert-butylchlorodimethylsilane | 1.30 mmol, 195 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methylene chloride | 3.6 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl {6-[3-(tert-butyldimethylsilanyloxy)-2-hydroxypropyl]-5-chloropyrazolo[1,5-a]pyrimidin-7-yl}(4-ethoxyphenyl)carbamate | 503 mg | [Si](C)(C)(C(C)(C)C)OCC(CC=1C(=NC=2N(C1N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)OCC)N=CC2)Cl)O | C28H41ClN4O5Si
